US07285558B2
7-(cyclopropylmethyl)-5-methyl-3-(1-methyl-1H-imidazol-2-yl)-2-{[5-(trifluoromethyl)-1H-indol-3-yl]methyl}-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione
This compound was made following the procedure described above, starting with 1-(cyclopropylmethyl)-6-hydrazino-3-methylpyrimidine-2,4(1H,3H)-dione, and condensing first with 5-(trifluoromethyl)-1H-indole-3-carbaldehyde, followed by 1-methyl-1H-imidazole-2-carbaldehyde. 498.2 (M+H).

reactant | 1-(cyclopropylmethyl)-6-hydrazino-3-methylpyrimidine-2,4(1H,3H)-dione | C1(CC1)CN1C(N(C(C=C1NN)=O)C)=O | C9H14N4O2
reactant | 5-(trifluoromethyl)-1H-indole-3-carbaldehyde | FC(C=1C=C2C(=CNC2=CC1)C=O)(F)F | C10H6F3NO
reactant | 1-methyl-1H-imidazole-2-carbaldehyde | CN1C(=NC=C1)C=O | C5H6N2O
product | 7-(cyclopropylmethyl)-5-methyl-3-(1-methyl-1H-imidazol-2-yl)-2-{[5-(trifluoromethyl)-1H-indol-3-yl]methyl}-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | C1(CC1)CN1C(N(C(C=2C1=NN(C2C=2N(C=CN2)C)CC2=CNC1=CC=C(C=C21)C(F)(F)F)=O)C)=O | C24H22F3N7O2
